US05654307
A mixture of 4-chlorothieno[3,2-d]-pyrimidine (135 mg, 0.79 mmol) and 3-bromoaniline (95 μL, 0.89 mmol) in 2-methoxyethanol (2 mL) is heated to 79° C. for 30 min. The resulting precipitate is filtered and washed with CH2Cl2 to yield 4-(3-bromoanilino)thieno[3,2-d]pyrimidine hydrochloride (195.5 mg, 72%) as a light yellow solid. 1H NMR (DMSO) δ 11.33 (1H, s), 8.94 (1H, s), 8.23 (1H, s), 8.53 (1H, d, J=5.3 Hz), 8.07 (1H, s), 7.77 (1H, d, J=7.9 Hz), 7.6 (1H, d, J=5.3 Hz), 7.48 (2H, m).

reactant | 4-chlorothieno[3,2-d]-pyrimidine | 0.79 mmol, 135 mg | ClC=1C2=C(N=CN1)C=CS2 | C6H3ClN2S
reactant | 3-bromoaniline | 0.89 mmol, 95 μL | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
product | 4-(3-bromoanilino)thieno[3,2-d]pyrimidine hydrochloride | 195.5 mg, 72% | Cl.BrC=1C=C(NC=2C3=C(N=CN2)C=CS3)C=CC1 | InChI=1S/C12H8BrN3S.ClH/c13-8-2-1-3-9(6-8)16-12-11-10(4-5-17-11)14-7-15-12;/h1-7H,(H,14,15,16);1H
